US08071624B2
(3S)-N-(4-Hydroxycyclohexyl)-1-(5-phenylpyridin-2-yl)piperidine-3-carboxamide
Sodium carbonate (21.2 mg, 0.000200 mol) in water (0.10 mL) was added to a mixture of (3S)-1-(5-bromopyridin-2-yl)-N-(4-hydroxycyclohexyl)piperidine-3-carboxamide (38.2 mg, 0.000100 mol, prepared as example 154), phenylboronic acid (14.6 mg, 0.000120 mol) and tetrakis(triphenylphosphine)palladium(0) (3.5 mg, 0.0000030 mol) in toluene (200.0 μL, 0.001878 mol) and ethanol (100.0 μL, 0.001713 mol). The resulting mixture was irradiated with microwaves at 150° C. for 20 min. Ethyl acetate (5 mL) was added and the mixture was washed with water and brine. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was dissolved in DMF and purified by prep.-HPLC to give the desired product. LCMS: m/z 380.2 (M+H)+.

reactant | Sodium carbonate | 0.000200 mol, 21.2 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | (3S)-1-(5-bromopyridin-2-yl)-N-(4-hydroxycyclohexyl)piperidine-3-carboxamide | 0.000100 mol, 38.2 mg | BrC=1C=CC(=NC1)N1C[C@H](CCC1)C(=O)NC1CCC(CC1)O | C17H24BrN3O2
reactant | phenylboronic acid | 0.000120 mol, 14.6 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | toluene | 0.001878 mol, 200.0 μL | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 0.001713 mol, 100.0 μL | C(C)O | C2H6O
solvent | water | 0.10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0000030 mol, 3.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | (3S)-N-(4-Hydroxycyclohexyl)-1-(5-phenylpyridin-2-yl)piperidine-3-carboxamide | OC1CCC(CC1)NC(=O)[C@@H]1CN(CCC1)C1=NC=C(C=C1)C1=CC=CC=C1 | C23H29N3O2
